US06235771B1
To a solution of methyl 7-(3,4-methylenedioxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate (0.80 g) in THF (10 ml) was added at 0° C. 70% 3-chloroperbenzoic acid (1.22 g), and the mixture was stirred at 0° C. for 15 minutes and then at room temperature for 2 hours. To the mixture was added an aqueous solution of sodium thiosulfate, and the mixture was stirred for a few minutes and extracted with dichloromethane. The organic layer was washed with sodium bicarbonate solution and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give solid, which was recrystallized from THF/isopropanol to give colorless crystals of methyl 7-(3,4-methylenedioxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (763.3 mg).

reactant | methyl 7-(3,4-methylenedioxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.80 g | C1OC=2C=C(C=CC2O1)C=1C=CC2=C(C=C(CCS2)C(=O)OC)C1 | C19H16O4S
reactant | 3-chloroperbenzoic acid | 1.22 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 7-(3,4-methylenedioxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 763.3 mg | C1OC=2C=C(C=CC2O1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C19H16O6S
